US04521598
7β-(2-Thienylacetamido)-3-azido-3-cephem-4-carboxylic acid
A solution of 0.625 g. of p-nitrobenzyl 7β-(2-thienylacetamido)-3-azido-3-cephem-4-carboxylate in 24 ml. of THF was diluted with 10 ml. of cold water and cooled in an ice-water bath. To the cold solution were added portionwise over about two hours 1.58 g. of zinc dust and sufficient 0.1N to 1N hydrochloric acid to maintain the pH of the mixture at about 4.3. Throughout the addition of zinc and acid the temperature of the reaction mixture was maintained at about 5° C. After the zinc dust addition was completed, the pH was adjusted to 2.7 with 1N hydrochloric acid and the mixture filtered. The filtrate was mixed with ethyl acetate and extracted twice with aqueous sodium bicarbonate. The aqueous layer was separated, layered with ethyl acetate, acidified with cold 1N hydrochloric acid, the organic layer separated, washed with brine, dried, and evaporated to yield 0.116 g. of the title acid as a pale yellow solid. The product was triturated with diethyl ether, filtered, and air dried to provide 80 mg. of the product acid as a yellow solid.

reactant | p-nitrobenzyl 7β-(2-thienylacetamido)-3-azido-3-cephem-4-carboxylate | S1C(=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)N=[N+]=[N-])C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C20H16N6O6S2
reactant | THF | C1CCOC1 | C4H8O
reactant | hydrochloric acid | 0.1N to 1N | Cl | ClH
reactant | hydrochloric acid | 1N | Cl | ClH
catalyst | zinc | [Zn] | Zn
solvent | water | O | H2O
product | 7β-(2-Thienylacetamido)-3-azido-3-cephem-4-carboxylic acid | S1C(=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)N=[N+]=[N-])C(=O)O)C1=O | C13H11N5O4S2
